US09428500B2
9-Benzenesulfonyl-4-(4-methoxy-phenylsulfanyl)-6-[4-(4-methyl-piperazin-1-yl)-phenyl]-9H-pyrido[2,3-b]indole
To a suspension of 9-Benzenesulfonyl-4-chloro-6-[4-(4-methyl-piperazin-1-yl)-phenyl]-9H-pyrido[2,3-b]indole (Building block A) (60 mg) in DMF (1.2 mL), under Argon, K2CO3 (56 mg, 3.5 equiv.) and 4-methoxythiophenol (0.029 mL, 2 equiv.) were added. After stirring for 0.5 h at r.t., the reaction mixture was diluted with AcOEt (20 mL), washed with sat. aqueous NH4Cl (20 mL) and brine (20 mL) The organic layer was dried over MgSO4, filtered and evaporated to dryness. The trituration procedure afforded the desired compound in 72% yield as a beige solid. 1H-NMR (300 MHz, CDCl3) δ=8.55 (d, J=8.8 Hz, 1H), 8.48 (d, J=1.6 Hz, 1H), 8.21 (d, J=5.4 Hz, 1H), 8.18-8.09 (m, 2H), 7.77 (dd, J=8.8, 1.9 Hz, 1H), 7.65 (d, J=8.7 Hz, 2H), 7.57-7.48 (m, 3H), 7.45-7.35 (m, 2H), 7.04 (d, J=7.8 Hz, 2H), 7.01 (d, J=8.7 Hz, 2H), 6.53 (d, J=5.5 Hz, 1H), 3.88 (s, 3H), 3.47-3.33 (m, 4H), 2.90-2.74 (m, 4H), 2.51 (s, 3H). 13C-NMR (75 MHz, CDCl3) δ=161.4 (C), 150.7 (C), 150.6 (C), 147.7 (C), 146.0 (CH), 138.8 (C), 137.7 (2 CH), 137.1 (C), 136.0 (C), 134.0 (CH), 131.9 (C), 129.0 (2 CH), 128.0 (2 CH), 127.6 (2 CH), 126.5 (CH), 123.8 (C), 121.5 (CH), 118.2 (C), 116.3 (2 CH), 115.8 (2 CH), 115.1 (CH), 114.8 (CH), 114.6 (C), 55.5 (CH3), 55.1 (2 CH2), 48.8 (2 CH2), 46.2 (CH3). ESI-MS: m/z 621.2 [M+H]+.

reactant | 9-Benzenesulfonyl-4-chloro-6-[4-(4-methyl-piperazin-1-yl)-phenyl]-9H-pyrido[2,3-b]indole | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=CC(=CC=C13)C1=CC=C(C=C1)N1CCN(CC1)C)C(=CC=N2)Cl | C28H25ClN4O2S
reactant | K2CO3 | 56 mg, 3.5 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxythiophenol | 0.029 mL, 2 equiv. | COC1=CC=C(C=C1)S | C7H8OS
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
solvent | AcOEt | 20 mL | CCOC(=O)C | C4H8O2
product | 9-Benzenesulfonyl-4-(4-methoxy-phenylsulfanyl)-6-[4-(4-methyl-piperazin-1-yl)-phenyl]-9H-pyrido[2,3-b]indole | 72% yield | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=CC(=CC=C13)C1=CC=C(C=C1)N1CCN(CC1)C)C(=CC=N2)SC2=CC=C(C=C2)OC | C35H32N4O3S2
